US06818631B1
4-Chloro-5-iodo-2-isopropylsulfonyl-6-trifluoromethypyrimidine (0.79 g) was dissolved in tetrahydrofuran (5.0 ml) and added propargyl alcohol (0.11 g). The mixture was cooled to ice bath temperature and added sodium hydride (oily 80%, 57 mg). The mixture was stirred at that temperature for 10 minutes, and then added imidazole (0.39 g) at the same temperature. The mixture was stirred at that temperature for 30 minutes, and then it warmed to room temperature. After stirring over night, the mixture was added water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, respectively and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-THF). The fraction was triturated by hexane to give 4-imidazol-1-yl-5-iodo-2-prop-2-ynyloxy-6-trifluoromethyl-pyrimidine (0.20 g) as colorless crystalline solid, mp 128-129° C.

reactant | 4-Chloro-5-iodo-2-isopropylsulfonyl-6-trifluoromethypyrimidine | 0.79 g | ClC1=NC(=NC(=C1I)C(F)(F)F)S(=O)(=O)C(C)C | C8H7ClF3IN2O2S
reactant | propargyl alcohol | 0.11 g | C(C#C)O | C3H4O
reactant | sodium hydride | 57 mg | [H-].[Na+]
reactant | imidazole | 0.39 g | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-imidazol-1-yl-5-iodo-2-prop-2-ynyloxy-6-trifluoromethyl-pyrimidine | 0.20 g | N1(C=NC=C1)C1=NC(=NC(=C1I)C(F)(F)F)OCC#C | C11H6F3IN4O
